US07622469B2
4-Octylamino-3,6-dihydro-6,6-dimethyl-2-(4′-hydroxybenzylamino)-1,3,5-triazine hydrochloride
25 ml of methanol, 40 ml of acetone and 0.1 ml of concentrated hydrochloric acid were added to 16 g (4.6 mmol) of N1-(4-hydroxybenzyl)-N5-octyl-biguanide dihydrochloride, and the mixture was stirred at 40° C. for 63 hours, and refluxed for 8 hours. The solvent was distilled off under reduced pressure, to give a residue, which was dissolved in 80% aqueous acetonitrile. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (elution with a mixture of chloroform and methanol (8:2)) to obtain 16 g of a colorless resinous solid.

reactant | methanol | 25 ml | CO | CH4O
reactant | acetone | 40 ml | CC(=O)C | C3H6O
reactant | hydrochloric acid | 0.1 ml | Cl | ClH
reactant | N1-(4-hydroxybenzyl)-N5-octyl-biguanide dihydrochloride | 4.6 mmol, 16 g | Cl.Cl.OC1=CC=C(CNC(=N)NC(=N)NCCCCCCCC)C=C1
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-Octylamino-3,6-dihydro-6,6-dimethyl-2-(4′-hydroxybenzylamino)-1,3,5-triazine hydrochloride | 16 g | Cl.C(CCCCCCC)NC=1NC(=NC(N1)(C)C)NCC1=CC=C(C=C1)O | InChI=1S/C20H33N5O.ClH/c1-4-5-6-7-8-9-14-21-18-23-19(25-20(2,3)24-18)22-15-16-10-12-17(26)13-11-16;/h10-13,26H,4-9,14-15H2,1-3H3,(H3,21,22,23,24,25);1H
